US06534535B1
To a suspension of methyl 1-[(7-cyano-2-naphthyl)methyl]-2-oxo-(3H)—benzimidazole-5-carboxylate (82 mg, 0.23 mmol) in CH3CN (2.5 mL) and methanol (2 mL) was added 1N LiOH (2.3 mL, 10 eq.). The reaction mixture was stirred at room temperature for 3 days, acidified with 1N HCl (2.4 mL), filtered and dried to yield 1-[(7-cyano-2-naphthyl)methyl]-2-oxo-(3H)—benzimidazole-5-carboxylic acid (72 mg, 91%) as a white solid. 1H NMR(CDCl3) δ: 5.16 (s, 2H); 6.77-6.79 (d, 1H); 7.50-7.54 (t, 2H); 7.62-7.64 (dd, 1H); 7.68 (s, 1H); 7.72 (s, 1H); 7.78-7.84 (dd, 2H); 8.11 (s, 1H); 10.8 (s, 1H). ES-MS (M+H)+=344.1.

reactant | methyl 1-[(7-cyano-2-naphthyl)methyl]-2-oxo-(3H)—benzimidazole-5-carboxylate | 0.23 mmol, 82 mg | C(#N)C1=CC=C2C=CC(=CC2=C1)CN1C(NC2=C1C=CC(=C2)C(=O)OC)=O | C21H15N3O3
reactant | LiOH | 1N, 2.3 mL, 10 eq. | [Li+].[OH-]
reactant | HCl | 1N, 2.4 mL | Cl | ClH
solvent | CH3CN | 2.5 mL | CC#N | C2H3N
solvent | methanol | 2 mL | CO | CH4O
product | 1-[(7-cyano-2-naphthyl)methyl]-2-oxo-(3H)—benzimidazole-5-carboxylic acid | 72 mg, 91% | C(#N)C1=CC=C2C=CC(=CC2=C1)CN1C(NC2=C1C=CC(=C2)C(=O)O)=O | C20H13N3O3
